US04925838
A mixture of 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-{4-(4-nitrobenzyloxycarbonyl)piperazin-1-yl}methylpyrrolidin-4-yl]thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.20 g), 20 % palladium hydroxide on carbon (0.6 g), 0.2M sodium acetate-acetic acid buffer (pH=5.8, 50 ml) and tetrahydrofuran (50 ml) was stirred for 5 hours under atmospheric pressure of hydrogen at ambient temperature. After the catalyst was filtered off, the filtrate was evaporated under reduced pressure to remove the organic solvent. The residue was chromatographed on nonionic adsorption resin, "Diaion HP-20" (trademark, made by Mitsubishi Chemical Industries) (30 ml) eluting in turn with water (80 ml) and 5% aqueous acetone (90 ml). The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-(piperazin-1-yl)methylpyrrolidin-4-yl]thio-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.23 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-{4-(4-nitrobenzyloxycarbonyl)piperazin-1-yl}methylpyrrolidin-4-yl]thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.20 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1CCN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C42H45N7O14S
reactant | sodium acetate acetic acid | 0.2M, 50 ml, pH=5.8 | C(C)(=O)[O-].[Na+].C(C)(=O)O
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.6 g | [OH-].[OH-].[Pd+2]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-(piperazin-1-yl)methylpyrrolidin-4-yl]thio-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.23 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)S[C@H]1C[C@H](NC1)CN1CCNCC1)C | C19H30N4O4S
